US06903132B2
To a 25 mL one necked round bottom flask, 3,3,6-trimethylindan-5-ol was dissolved in acetic acid (10 mL). The solution was cooled down to 0° C. followed by slow addition of bromine (290 μL, 5.65 mmol). The reaction was slowly warmed up to room temperature. After 3 h of stirring, the reaction was completed. Excess acetic acid was removed by rotavap, and the residue was quenched with ascorbic acid solution. The content was extracted with sodium bicarbonate and brine. Plugged column with silica gel 5:95 ethyl acetate:hexane gave colorless oil, 4-bromo-3,3,6-trimethylindan-5-ol (82% yield). 1H NMR (300 MHz, CDCl3): δ 1.42 (s, 6H), 1.98(dd, 2H, J=15.11, 7.55 Hz), 2.24 (s, 3H), 2.54 (s, 3H), 2.57 (s, 3H), 2.85(d, 2H, J=7.55 Hz), 3.89 (s, 3H), 5.12(d, 1H, J=3.40 Hz), 6.31 (s, 1H), 6.95(m, 1H), 7.01 (s, 1H), 7.12(d, 1H, J=3.40) 8.34 (bs, 1H).

reactant | 3,3,6-trimethylindan-5-ol | CC1(CCC2=CC(=C(C=C12)O)C)C | C12H16O
reactant | bromine | 5.65 mmol, 290 μL | BrBr | Br2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-3,3,6-trimethylindan-5-ol | 82% yield | BrC1=C2C(CCC2=CC(=C1O)C)(C)C | C12H15BrO
